US06096811
N-carboxymethyl-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide
To a suspension of bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride (688 mg, 3.9 mmol) in H2O (10 mL) was added glycine (348 mg, 4.6 mmol), and a solution of K2CO3 (321 mg, 2.3 mmol) in H2O (2 mL). The mixture was heated to reflux temperature and allowed to react for 4 hrs. After cooling to room temperature, the mixture was acidified with conc. HCl until the pH reached 1 and extracted with ethyl acetate (EtOAc). The organic layer was washed with brine and dried over Na2SO4. Removal of the solvent gave a colorless solid which was recrystallized from EtOAc/hexane to yield the product as colorless crystals: 653 mg (72% yield), mp=142° C.

reactant | bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride | 3.9 mmol, 688 mg | C12C3C(C(C=C1)CC2)C(=O)OC3=O | C10H10O3
reactant | glycine | 4.6 mmol, 348 mg | NCC(=O)O | C2H5NO2
reactant | K2CO3 | 2.3 mmol, 321 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | N-carboxymethyl-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide | 72% yield | C(=O)(O)CN1C(=O)C2C3C=CC(C2C1=O)CC3 | C12H13NO4
